US04105695
To a refluxing mixture of 1.4 g of lithium aluminum hydride in 10 ml of anhydrous ether and 40 ml of dry THF is slowly added 1.8 g of 1-[2,5-dimethoxy-4-methylthiophenyl]-2-nitro-1-butene. An additional 20 ml of THF is added to dissolve and wash all the nitro compound into the THF mixture. Refluxing is continued for seven hours. The mixture is cooled and ice water (3.4 ml) slowly added to decompose the excess lithium aluminum hydride. When the decomposition is complete, the mixture is filtered and the solid cake washed with THF. The filtrate is evaporated in vacuo to produce crude 2-amino-1-(2,5-dimethoxy-4-methylthiophenyl)butane. The crude is purified as the hydrochloride salt by recrystallization from isopropanol.

reactant | lithium aluminum hydride | 1.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-[2,5-dimethoxy-4-methylthiophenyl]-2-nitro-1-butene | 1.8 g | COC=1SC(=C(C1C=C(CC)[N+](=O)[O-])C)OC | C11H15NO4S
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-amino-1-(2,5-dimethoxy-4-methylthiophenyl)butane | NC(CC1=C(SC(=C1C)OC)OC)CC | C11H19NO2S
